US05264437
1-(3-Nitrophenyl)pyrido[2,3-d]pyrimidine-2(1H,3H)-one (300 mg, 1.1 mmole) was suspended in acetone (100 ml). To this suspension was added powdered K2CO3 (607 mg, 4.4 mmole) and benzyl bromide (282 mg, 1.65 mmole). The suspension was refluxed for 18 hours. The suspension was filtered, while still hot, to remove solid unreacted K2CO3, which was discarded. The solvents were removed from the filtrate and the residue was purified by preparative thin-layer chromatography (eluted with ethyl acetate) yielding 104 mg (0.289 mmole, 26% yield) of 1-(3-nitrophenyl)-3-benzylpyrido[2,3-d]pyrimidine-2(1H,3H)-one (mp 144°-145° C.), as a yellow solid.

reactant | 1-(3-Nitrophenyl)pyrido[2,3-d]pyrimidine-2(1H,3H)-one | 1.1 mmole, 300 mg | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NCC2=C1N=CC=C2)=O | C13H10N4O3
reactant | K2CO3 | 4.4 mmole, 607 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 1.65 mmole, 282 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-(3-nitrophenyl)-3-benzylpyrido[2,3-d]pyrimidine-2(1H,3H)-one | 0.289 mmole, 104 mg, 26% yield | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(CC2=C1N=CC=C2)CC2=CC=CC=C2)=O | C20H16N4O3
